US07666879B2
A. 2-Amino-5-(1-methyl-cyclopropyl)-thiazole-4-carboxylic acid methyl ester
Combine 1-Methyl-cyclopropanecarbaldehyde (4.88 g, 58.01 mmol) and methyldichloroacetate (5.46 mL, 52.74 mmol) in diethyl ether (20 mL); cool to 0° C. Add dropwise a solution of sodium (1.21 g, 52.74 mmol) in methanol (20 mL). Stir the reaction mixture for 4 hours at 0° C. under N2. Extract the mixture with diethyl ether versus water. Dry the resulting organics over magnesium sulfate, filter, and concentrate to a clear liquid. Combine the liquid with thiourea (4.42 g, 58.01 mmol) in methanol (25 mL). Heat the reaction mixture for 14 hours at 60° C. under N2. Concentrate in vacuo and purify on a plug of silica gel, eluting with hexanes→3% methanol in dichloromethane→5% methanol in dichloromethane to afford product (5.10 g, 46% over two steps). MS (ES), m/z 213 (M+1).

reactant | 1-Methyl-cyclopropanecarbaldehyde | 58.01 mmol, 4.88 g | CC1(CC1)C=O | C5H8O
reactant | methyldichloroacetate | 52.74 mmol, 5.46 mL | COC(C(Cl)Cl)=O | C3H4Cl2O2
reactant | sodium | 52.74 mmol, 1.21 g | [Na] | Na
reactant | thiourea | 58.01 mmol, 4.42 g | NC(=S)N | CH4N2S
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 25 mL | CO | CH4O
product | 2-Amino-5-(1-methyl-cyclopropyl)-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1C1(CC1)C)N | C9H12N2O2S
